US06677345B1
1.3 Preparation of 2-Amino-4-chloro-6-di-(4-methoxybenzyl)amino-5-pyrimidine Carbaldehyde
2-Amino-4,6-dichloro-5-pyrimidine carbaldehyde (0.50 g; 2.60 mmol) was stirred in dry DCM (5 ml). Triethylamine (0.263 g; 2.60 mmol) and di(4-methoxybenzyl)amine (0.669 g; 2.60 mmol) were added and the reaction stirred at r.t for 1.25 h. the reaction was worked up by addition of further DCM (50 ml) and extraction with saturated sodium chloride solution (3×50 ml). The organic layer was washed with water (50 ml), dried (MgSO4) and evaporated yielding a yellow foam (0.957 g; 2.32 mmol; 89.2%).

reactant | 2-Amino-4,6-dichloro-5-pyrimidine carbaldehyde | 2.60 mmol, 0.50 g | NC1=NC(=C(C(=N1)Cl)C=O)Cl | C5H3Cl2N3O
reactant | Triethylamine | 2.60 mmol, 0.263 g | C(C)N(CC)CC | C6H15N
reactant | di(4-methoxybenzyl)amine | 2.60 mmol, 0.669 g | COC1=CC=C(CNCC2=CC=C(C=C2)OC)C=C1 | C16H19NO2
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-4-chloro-6-di-(4-methoxybenzyl)amino-5-pyrimidine Carbaldehyde | NC1=NC(=C(C(=N1)Cl)C=O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C21H21ClN4O3
